US07521462B2
5N HCl (10 ml) is added to a solution of 4-chloro-5-([1,3]dioxolan-2-yl)-2-methoxy-thiazole (1.80 g, 8.13 mmol) in tetrahydrofuran (50 ml). After 1 h, the reaction is poured into 2N NaOH (100 ml) and extracted with ethyl acetate (3×100 ml). The ethyl acetate is washed with aqueous saturated brine solution, dried with anhydrous Na2SO4, filtered, and concentrated. The crude product is purified by flash chromatography on silica gel eluting with 20% ethyl acetate/hexanes to yield (1.30 g, 90%) of 4-chloro-2-methoxy-thiazole-5-carboxaldehyde: mass spectrum (ion spray): m/z=178.0 (M+1); 1H NMR (CDCl3): δ=9.95 (1H, s), 4.22 (3H, s).

reactant | HCl | 5N, 10 ml | Cl | ClH
reactant | 4-chloro-5-([1,3]dioxolan-2-yl)-2-methoxy-thiazole | 8.13 mmol, 1.80 g | ClC=1N=C(SC1C1OCCO1)OC | C7H8ClNO3S
reactant | NaOH | 2N, 100 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-chloro-2-methoxy-thiazole-5-carboxaldehyde | 1.30 g, 90% | ClC=1N=C(SC1C=O)OC | C5H4ClNO2S
